US07964619B2
4-(5-Bromopyridin-2-yl)-benzaldehyde (6).
The same procedure described for 1 was used by employing 2,5-dibromopyridine (1 equiv.) and 4-formylphenyl boronic acid (1 equiv.). Yield 71%, mp 120-121° C. 1H NMR (DMSO-d6); δ 7.97 (d, J=8.4 Hz, 2H), 8.04 (d, J=8.7 Hz, 1H), 8.16 (dd, J=2.4, 8.7 Hz, 1H), 8.26 (d, J=8.4 Hz, 2H), 8.80 (d, J=2.4 Hz, 1H), 10.08 (s, 1H). MS (ESI) m/e (rel. int.): 262 (M+, 100), 232 (30), 153 (55). Anal. Calc. for C12H8BrNO: C %, 54.99; H %, 3.08; Found. C %, 54.75; H %, 3.14.

reactant | 2,5-dibromopyridine | 1 equiv. | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 4-formylphenyl boronic acid | 1 equiv. | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
product | 4-(5-Bromopyridin-2-yl)-benzaldehyde | Yield 71% | BrC=1C=CC(=NC1)C1=CC=C(C=O)C=C1 | C12H8BrNO
